US04493833
A mixture of 7-[2-methoxythiomethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (0.58 g.), conc. hydrochloric acid (0.405 g.), methanol (8.7 ml.) and tetrahydrofuran (5 ml.) was stirred for 2 hours and 10 minutes at ambient temperature. The solvent was distilled off under reduced pressure and the residue was dissolved in a 10% aqueous solution of sodium hydroxide (pH 7~8.5). An insoluble material was filtered off and the filtrate was adjusted to pH 3.4 with 10% hydrochloric acid under ice-cooling and stirred for 30 minutes. Precipitates were collected by filtration, washed with water and dried to give 7-[2-methylthiomethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (0.4 g.).

reactant | 7-[2-methoxythiomethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.58 g | COSCON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C18H17N7O7S5
reactant | hydrochloric acid | 0.405 g | Cl | ClH
reactant | methanol | 8.7 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 7-[2-methylthiomethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.4 g | CSCON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)C=1N=C(SC1)N | C17H17N7O5S5
